US08912190B2
2-(2-(7-Bromo-3-tert-butyl-2-oxoquinoxalin-1(2H)-yl)ethylamino)-2-oxoethyl acetate was dissolved in 4 mL of 1:1 tetrahydrofuran/methanol, and 0.99 mL of aq. 1N LiOH was added. After 30 minutes of stirring at room temperature the reaction was complete. Hydrochloric acid was used to adjust the pH to 6, and the solution was extracted with ethyl acetate 3 times, the combined organic layers washed with brine, dried over sodium sulfate, and concentrated under reduced pressure to provide 197 mg of N-(2-(7-bromo-3-tert-butyl-2-oxoquinoxalin-1(2H)-yl)ethyl)-2-hydroxyacetamide. The product was pure by TLC and was used in the next step (Suzuki coupling) without purification.

reactant | 2-(2-(7-Bromo-3-tert-butyl-2-oxoquinoxalin-1(2H)-yl)ethylamino)-2-oxoethyl acetate | C(C)(=O)OCC(=O)NCCN1C(C(=NC2=CC=C(C=C12)Br)C(C)(C)C)=O | C18H22BrN3O4
reactant | LiOH | 1N | [Li+].[OH-]
reactant | Hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran methanol | 4 mL | O1CCCC1.CO
product | N-(2-(7-bromo-3-tert-butyl-2-oxoquinoxalin-1(2H)-yl)ethyl)-2-hydroxyacetamide | 197 mg | BrC1=CC=C2N=C(C(N(C2=C1)CCNC(CO)=O)=O)C(C)(C)C | C16H20BrN3O3
